US09382188B2
A) 5-bromo-2-carboxypyridine 1-oxide
To a suspension of 5-bromopicolinic acid (25.0 g) and urea-hydrogen peroxide adduct (20.0 g) in acetonitrile (200 mL) was added trifluoroacetic anhydride (50 mL) at 0° C., and the mixture was stirred for 30 min. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was recrystallized from diethyl ether to give the title compound (19.6 g) as white crystals.

reactant | 5-bromopicolinic acid | 25.0 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | urea hydrogen peroxide | 20.0 g | NC(=O)N.OO
reactant | trifluoroacetic anhydride | 50 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 5-bromo-2-carboxypyridine 1-oxide | 19.6 g | BrC=1C=CC(=[N+](C1)[O-])C(=O)O | C6H4BrNO3
